US04111937
c. 3'-Carboxy-5'-aminoglutaranilic Acid [G; Y is CH2CH2CH2, Z is OH]
3-Glutarimido-5-nitrobenzoic acid (55.6 g.) was dissolved in 150 ml. of 10% aqueous sodium hydroxide, the pH adjusted to 8 with 3N hydrochloric acid, 1.0 g. of 10% palladium-on-carbon catalyst added, and the mixture hydrogenated in a Parr apparatus. Reduction was complete in 5 hours. The reaction mixture was filtered and the filtrate containing 3'-carboxy-5'-aminoglutaranilic acid iodinated as described below.

reactant | 3-Glutarimido-5-nitrobenzoic acid | 55.6 g | C1(CCCC(N1C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-])=O)=O | C12H10N2O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3'-Carboxy-5'-aminoglutaranilic Acid | C(=O)(O)C=1C=C(NC(CCCC(=O)O)=O)C=C(C1)N | C12H14N2O5
